US08022205B2
3-[4-(3-Hydroxy-phenyl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl]-benzonitrile (A-18)
In the same manner as Example 1-A-01, from 4-[4-chloro-5-(2-chloroethyl)-6-(3-methoxyphenyl)-pyrimidin-2-yl]-morpholine and 3-cyanoaniline, 3-[4-(3-methoxy-phenyl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl]-benzonitrile was obtained, and subsequently, further in the same manner as Example 1-A-09, the desired compound was obtained.

reactant | 4-[4-chloro-5-(2-chloroethyl)-6-(3-methoxyphenyl)-pyrimidin-2-yl]-morpholine | ClC1=NC(=NC(=C1CCCl)C1=CC(=CC=C1)OC)N1CCOCC1 | C17H19Cl2N3O2
reactant | 3-cyanoaniline | C(#N)C=1C=C(N)C=CC1 | C7H6N2
reactant | 3-[4-(3-methoxy-phenyl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl]-benzonitrile | COC=1C=C(C=CC1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C=2C=C(C#N)C=CC2 | C24H23N5O2
product | 3-[4-(3-Hydroxy-phenyl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl]-benzonitrile | OC=1C=C(C=CC1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C=2C=C(C#N)C=CC2 | C23H21N5O2
